US05030646
Stage A: 1-Methyl-5-Methoxy-2-Indolinethione
18.5 g (0.22 mol) of sodium bicarbonate are added to a solution of 19.5 g (0.11 mol) of 5-methoxy-1-methyl-2-indolinone prepared according to A. H. BECKETT, R. W. DAISLEY and J. WALKER (Tetrahedron 1968, 24 6093) and 16.5 g (0.037 mol) of phosphorus pentasulfide in 200 ml of tetrahydrofuran. The reaction medium is heated to a temperature of 50° C. for 1 h 30 min and then filtered and concentrated on a water bath under vacuum. The residue is taken up with ice-cold water and the mixture is extracted with methylene chloride. The organic phase is washed with saturated sodium chloride solution, dried and evaporated. The residue is used in the next stage without further treatment.

reactant | sodium bicarbonate | 0.22 mol, 18.5 g | C([O-])(O)=O.[Na+]
reactant | 5-methoxy-1-methyl-2-indolinone | 0.11 mol, 19.5 g | COC=1C=C2CC(N(C2=CC1)C)=O | C10H11NO2
reactant | phosphorus pentasulfide | 0.037 mol, 16.5 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-Methyl-5-Methoxy-2-Indolinethione | CN1C(CC2=CC(=CC=C12)OC)=S | C10H11NOS
